US04150032
2-Methylamino-7-methoxy-3,4-dihydronaphthalene
This compound was prepared according to the procedure described by Evans, et al., J. Org. Chem. 35, 4122 (1970) as follows. Into a dry, nitrogen purged, 500 ml, 3-neck flask fitted with mechanical stirrer, dropping funnel and nitrogen inlet tube was added a solution of 14.3 g (460 mmole) methylamine in anhydrous ether (100 ml) and a solution of 20.0 g (113.5 mmole) 7-methoxy-2-tetralone in same solvent (100 ml) and the solution was placed under a slow stream of nitrogen and cooled to -18° (ice-methanol). A solution of 11.56 g (61 mmole) titanium tetrachloride in pentane (50 ml) was added dropwise with stirring over 30 min period. After the addition, the reaction mixture was stirred at room temperature for 1 hr and then fast filtered. The solid residue was washed with ether (50 ml) and the filtrate and washings were combined. Removal of the solvent in vacuo gave 20.6 g (96%) of XIId as an oxygen-sensitive oil which crystallized on standing; IR (neat), 3430 (NH), 1630 cm-1 (C=C--N); NMR δ, 2.15 (m, 2, benzylic), 2.55 (m, 2, allylic), 2.70 (s, 3, NCH3), 3.15 (broad, NH), 3.70 (s, 3, OCH3), 5.13 (s, 1, C-1H), 6.25-6.90 (m, 3, ArH).

reactant | methylamine | 460 mmole, 14.3 g | CN | CH5N
reactant | 7-methoxy-2-tetralone | 113.5 mmole, 20.0 g | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | pentane | 50 ml | CCCCC | C5H12
catalyst | titanium tetrachloride | 61 mmole, 11.56 g | [Ti](Cl)(Cl)(Cl)Cl
product | 2-Methylamino-7-methoxy-3,4-dihydronaphthalene | CNC1=CC2=CC(=CC=C2CC1)OC | C12H15NO
